US03979408
2-(Pyrrol-1-yl)amino-4,5-dihydro-1H-imidazole.
By reacting 3.7 g. (0.0280 mole) of 2,5-dimethoxy-tetrahydrofuran with 5 g. (0.0276 mole) of 2-hydrazino-4,5-dihydro-1H-imidazole hydrobromide according to the process reported in Example 3, and adding at the end of the reaction a 10% aqueous solution of sodium hydroxide, the title compound is obtained as the free base. Yield 1.5 g. M.p. 183°-4°C. (from acetone.) The maleate melts at 142°-5°C (from acetone).

reactant | 2,5-dimethoxy-tetrahydrofuran | 0.0280 mole | COC1OC(CC1)OC | C6H12O3
reactant | 2-hydrazino-4,5-dihydro-1H-imidazole hydrobromide | 0.0276 mole | Br.N(N)C=1NCCN1
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(Pyrrol-1-yl)amino-4,5-dihydro-1H-imidazole | N1(C=CC=C1)NC=1NCCN1 | C7H10N4
